US07598423B2
Synthesis of 1-[4-(4-{[3-(2-amino-thiazol-4-yl)-phenyl]-hydroxy-methyl}-benzyloxy)-2-hydroxy-3-methyl-phenyl]-propan-1-one
Heat a solution of 1-(4-{4-[[3-(2-chloro-acetyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzyloxy}-2-hydroxy-3-methyl-phenyl)-propan-1-one (0.250 mg, 0.466 mmol) and thiourea (71 mg, 0.931 mmol) in ethanol (0.20 M) overnight at 70° C. Add p-toluenesulfonic acid (10 mg) and stir overnight. Evaporate solvents and chromatograph residue. Major fraction isolated was the title compound (0.115 g, 0.243 mmol, 52%): 1H NMR (400 MHz, DMSO-d6) δ 1.09 (t, J=10.5 Hz, 3H), 2.02 (s, 3H), 3.03 (q, J=14.4 Hz, 2H), 5.20 (s, 2H), 5.75 (s, 1H), 6.70 (d, J=9.0 Hz, 1H), 7.14 (s, 1H), 7.37 (d, J=6.43 Hz, 1H), 7.42 (m, 6H), 7.60 (m, 1H), 7.80 (m, 2H), 12.89 (s, 1H). MS (m/z): 473 (M−H).

reactant | 1-(4-{4-[[3-(2-chloro-acetyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzyloxy}-2-hydroxy-3-methyl-phenyl)-propan-1-one | 0.466 mmol, 0.250 mg | ClCC(=O)C=1C=C(C=CC1)C(C1=CC=C(COC2=C(C(=C(C=C2)C(CC)=O)O)C)C=C1)OC1OCCCC1 | C31H33ClO6
reactant | thiourea | 0.931 mmol, 71 mg | NC(=S)N | CH4N2S
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 0.20 M | C(C)O | C2H6O
product | 1-[4-(4-{[3-(2-amino-thiazol-4-yl)-phenyl]-hydroxy-methyl}-benzyloxy)-2-hydroxy-3-methyl-phenyl]-propan-1-one | 0.243 mmol, 0.115 g, 52% | NC=1SC=C(N1)C=1C=C(C=CC1)C(C1=CC=C(COC2=C(C(=C(C=C2)C(CC)=O)O)C)C=C1)O | C27H26N2O4S
